US06727264B1
1-{3-[(6-CHLOROHEXYL)OXY]PHENYL}ETHANONE:
Prepared by Procedure U and Scheme AK using 1-(3-hydroxyphenyl)ethanone and 1-bromo-6-chlorohexane.

reactant | 1-(3-hydroxyphenyl)ethanone | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
product | 1-{3-[(6-CHLOROHEXYL)OXY]PHENYL}ETHANONE | ClCCCCCCOC=1C=C(C=CC1)C(C)=O | C14H19ClO2
